US06015825
Methyl 1,2,3-triazol-1-ylmethoxyacetate
The title compound was prepared from 1,2,3-triazole and methyl chloromethoxyacetate by a similar method to that of Preparation 40 as a colourless oil which was characterised by NMR. 1H-NMR (300 MHz, CDCl3): δ=3.76 (s,3H), 4.16 (s,2H), 5.84 (s,2H), 7.80 (d,2H) ppm.

reactant | 1,2,3-triazole | N1N=NC=C1 | C2H3N3
reactant | methyl chloromethoxyacetate | ClCOCC(=O)OC | C4H7ClO3
product | Methyl 1,2,3-triazol-1-ylmethoxyacetate | N1(N=NC=C1)COCC(=O)OC | C6H9N3O3
